US08211908B2
To a solution of 185 mg of 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-b)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one in 4 mL of ethyl acetate, 2 mL of 4 mol/L hydrogen chloride/ethyl acetate was added, and the mixture was stirred at room temperature for 1 hour. The solid was filtered off to obtain 244 mg of 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-b)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride as a white solid.

reactant | 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-b)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one | 185 mg | O1CCOC2=NC=C(C=C21)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)F)=O | C23H26FN5O3
reactant | hydrogen chloride ethyl acetate | 4 mol/L, 2 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-b)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride | 244 mg | Cl.O1CCOC2=NC=C(C=C21)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)F)=O | InChI=1S/C23H26FN5O3.ClH/c24-17-12-20-19(26-15-17)1-2-22(30)29(20)8-7-28-5-3-18(4-6-28)25-13-16-11-21-23(27-14-16)32-10-9-31-21;/h1-2,11-12,14-15,18,25H,3-10,13H2;1H
